US07737166B2
Ethyl-4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carboxylate (I-111)
4-Amino-6-fluoro-5-hydroxy-2-methylbiphenyl-3-carbonitrile (I-41) (5.0 g, 20.64 mmol) and ethyl methoxyacetate (18.18 g, 82.56 mmol) were stirred at 100° C. for 23 hours under nitrogen atmosphere. The reaction liquid was cooled to room temperature, and left at the same temperature for 17 hours. At 0° C., hexane was added to the suspension, and left at the same temperature for 1 hour. With washing with hexane, the precipitated crystal was collected by filtration. The crystal was collected, dried at 50° C. under reduced pressure for 4 hours, and then at room temperature for 12 hours to obtain the entitled compound (6.39 g, 96%) as a pale brown powder.

reactant | 4-Amino-6-fluoro-5-hydroxy-2-methylbiphenyl-3-carbonitrile | 20.64 mmol, 5.0 g | NC1=C(C(=C(C(=C1O)F)C1=CC=CC=C1)C)C#N | C14H11FN2O
reactant | ethyl methoxyacetate | 82.56 mmol, 18.18 g | COCC(=O)OCC | C5H10O3
solvent | hexane | CCCCCC | C6H14
product | Ethyl-4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carboxylate | 6.39 g, 96% | C(C)OC(=O)C=1OC2=C(N1)C(=C(C(=C2F)C2=CC=CC=C2)C)C#N | C18H13FN2O3
